US07211587B2
N-[5-(Tert-butyl)-1,3,4-thiadiazol-2-yl]-N′-{4-[(6,7-dimethoxy-4-quinolyl)oxy]-2-fluorophenyl}urea
4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluoroaniline (100 mg) was dissolved in chloroform (5 ml) and triethylamine (0.5 ml) to prepare a solution. A solution of triphosgene (100 mg) in chloroform was then added to the solution, and the mixture was stirred at room temperature for 15 min. Next, 2-amino-5-tert-butyl-1,3,4-thiadiazole (65 mg) was added thereto, and the mixture was further stirred at room temperature overnight. Distilled water was added to the reaction solution, and the mixture was subjected to separatory extraction with chloroform. The organic layer was washed with saturated brine and was dried over sodium sulfate. The organic layer was concentrated under the reduced pressure, and the residue was purified by HPLC using chloroform/acetone for development to give 49 mg of the title compound.

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluoroaniline | 100 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(N)C=C1)F | C17H15FN2O3
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 100 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-amino-5-tert-butyl-1,3,4-thiadiazole | 65 mg | NC=1SC(=NN1)C(C)(C)C | C6H11N3S
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | N-[5-(Tert-butyl)-1,3,4-thiadiazol-2-yl]-N′-{4-[(6,7-dimethoxy-4-quinolyl)oxy]-2-fluorophenyl}urea | 49 mg | C(C)(C)(C)C1=NN=C(S1)NC(=O)NC1=C(C=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)F | C24H24FN5O4S
